US07332629B2
2-Methoxy-6-pentadecyl-benzoyl chloride was condensed with 5-Amino-2-nitrobenzotrifluoride in dichloromethane in presence of triethylamine as acid scavenger to yield 2-Methoxy-N-(4-nitro-3-trifluromethyl-phenyl)-6-pentadecyl-benzamide. The reaction mixture was then concentrated in vacuo and the residue was extracted into ethyl acetate. The ethyl acetate layer was washed with water and with cold aqueous hydrochloric acid, then dried over sodium sulphate and finally concentrated in vacuo. The residue obtained was chromatographed over silica gel to afford the desired product.

reactant | 2-Methoxy-6-pentadecyl-benzoyl chloride | COC1=C(C(=O)Cl)C(=CC=C1)CCCCCCCCCCCCCCC | C23H37ClO2
reactant | 5-Amino-2-nitrobenzotrifluoride | NC=1C=CC(=C(C1)C(F)(F)F)[N+](=O)[O-] | C7H5F3N2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Methoxy-N-(4-nitro-3-trifluromethyl-phenyl)-6-pentadecyl-benzamide | COC1=C(C(=O)NC2=CC(=C(C=C2)[N+](=O)[O-])C(F)(F)F)C(=CC=C1)CCCCCCCCCCCCCCC | C30H41F3N2O4
